US09376422B2
Methyl 3-{ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate
To a stirred solution of methyl 3-[ethyl(piperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate TFA salt (crude material, 1.30 g, 3.36 mmol) in CH2Cl2 (20 mL) and AcOH (5 mL) was added acetone (590 mg, 10.1 mmol) and sodium triacetoxyborohydride (1.80 g, 8.40 mmol). The reaction mixture was stirred at 23° C. for 6 days and then saturated NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with CH2Cl2 (3×30 mL) and the combined organic layer was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH—SiO2 heptane/ethylacetate=5/1) to give the titled compound as oil (220 mg, 17% yield). 1HNMR (400 MHz, CDCl3) δppm; 7.79 (br. s., 1H), 7.44 (d, J=1.6 Hz, 1H), 3.91 (s, 3H), 3.10 (q, J=7.0 Hz, 2H), 2.86 (m, 2H), 2.61-2.75 (m, 2H), 2.53 (s, 3H), 2.06 (m, 2H), 1.70-1.80 (m, 2H), 1.58-1.69 (m, 2H), 1.00 (s×2, 6H), 0.84 (t, J=7.0 Hz, 3H); MS (ES) [M+H] 387.2.

reactant | methyl 3-[ethyl(piperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate TFA salt | 3.36 mmol, 1.30 g | OC(=O)C(F)(F)F.C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCNCC1
reactant | acetone | 10.1 mmol, 590 mg | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 8.40 mmol, 1.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | Methyl 3-{ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate | 220 mg, 17% yield | C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C(C)C | C20H29F3N2O2
